US08026347B2
A jacketed 1 L three-necked round bottom flask with mechanical stirrer, rubber septum with temperature probe and gas bubbler was charged with crude (2-chloro-5-iodophenyl)(4-ethoxyphenyl)methanone (30.13 g, 77.93 mmol), acetonitrile (300 mL, KF=0.004 wt % water) and the suspension was set stirring under nitrogen and was cooled to about 5° C. Then triethylsilane (28 mL, 175.30 mmol, 2.25 equiv) was added followed by boron trifluoride-diethyletherate (24 mL, 194.46 mmol, 2.50 equiv) which was added over about 30 seconds. The reaction was warmed to ambient over 30 min and was stirred for 17 hours. The reaction was diluted with methyl tert-butyl ether (150 mL) followed by saturated aq sodium bicarbonate (150 mL) which was added over about 1 minutes. Mild gas evolution was noticed and the biphasic solution was stirred at ambient for 45 minutes. The upper organic phase was washed with saturated aq. sodium bicarbonate (100 mL), and with saturated aq. sodium chloride (50 mL). The washed extract was concentrated on a rotary evaporator to about one half of its original volume and was diluted with water (70 mL). Further concentration in vacuo at 45° C. was done until white prills formed which were allowed to cool to ambient while stirring. After about 30 minutes at ambient, the suspended solids were isolated by filtration, washed with water (30 mL), and were dried in vacuo at 45° C. After about 2.5 hours, this afforded 1-chloro-2-(4-ethoxybenzyl)-4-iodobenzene as a slightly waxy white granular powder (28.28 g, 98.2 area % by HPLC at 220 nm, 97.4% “as-is” yield).

reactant | (2-chloro-5-iodophenyl)(4-ethoxyphenyl)methanone | 77.93 mmol, 30.13 g | ClC1=C(C=C(C=C1)I)C(=O)C1=CC=C(C=C1)OCC | C15H12ClIO2
reactant | acetonitrile | 300 mL | C(C)#N | C2H3N
reactant | triethylsilane | 175.30 mmol, 28 mL, 2.25 equiv | C(C)[SiH](CC)CC | C6H16Si
reactant | sodium bicarbonate | 150 mL | C([O-])(O)=O.[Na+]
solvent | methyl tert-butyl ether | 150 mL | C(C)(C)(C)OC | C5H12O
product | 1-chloro-2-(4-ethoxybenzyl)-4-iodobenzene | ClC1=C(C=C(C=C1)I)CC1=CC=C(C=C1)OCC | C15H14ClIO
